US05290943
To 53.6 g of an aqueous solution containing 0.2 mol of 2-butanamido pyridine (If), a solution containing 71 g (0.5 mol) of disodium hydrogenphosphate dissolved in 490 g of water was added. To this mixture, a solution containing 54.2 g (0.34 mol) of bromine dissolved in 54 g of acetic acid was added with stirring at 10°-17° C. for 5 hours. After having been stirred at room temperature for one hour and then at 60° C. for one hour, the mixture was cooled. The crystal precipitated thereby was filtered. After the crystal was washed with water and dried, 43.7 g (yield: 89.8%) of 2-butanamido-5-bromopyridine (IIf) was obtained as a pale brown crystal.

reactant | 2-butanamido pyridine | 0.2 mol | C(CCC)(=O)NC1=NC=CC=C1 | C9H12N2O
reactant | disodium hydrogenphosphate | 0.5 mol, 71 g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | bromine | 0.34 mol, 54.2 g | BrBr | Br2
solvent | water | 490 g | O | H2O
solvent | acetic acid | 54 g | C(C)(=O)O | C2H4O2
product | 2-butanamido-5-bromopyridine | 43.7 g, yield: 89.8% | C(CCC)(=O)NC1=NC=C(C=C1)Br | C9H11BrN2O
